US08003651B2
1-Chloroethyl chloroformate (1.5 mL, 13.9 mmol) was added to a solution of (3S,4R)-methyl 1-benzyl-4-(3,4-dichlorophenyl)pyrrolidine-3-carboxylate (4.20 g, 11.5 mmol) in DCE (50 mL) at 0° C. The mixture was refluxed for 1 hour. After cooling, the solvent was removed under vacuum at 65° C. for 1 hour. MeOH (50 mL) was added to the residue and refluxed for 1 hour. The MeOH was removed. The solid was re-dissolved in CHCl3 and treated with saturated Na2CO3. The aqueous portion was separated and extracted with CHCl3 (2×30 mL). The organic phase was combined and dried. The solvent was removed to afford (3S,4R)-methyl 4-(3,4-dichlorophenyl)pyrrolidine-3-carboxylate (3.1 g, 98%). (LCMS (APCI+) [M+H]+ 274.1; Rt: 2.25 min.).

reactant | 1-Chloroethyl chloroformate | 13.9 mmol, 1.5 mL | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | (3S,4R)-methyl 1-benzyl-4-(3,4-dichlorophenyl)pyrrolidine-3-carboxylate | 11.5 mmol, 4.20 g | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)C1=CC(=C(C=C1)Cl)Cl)C(=O)OC | C19H19Cl2NO2
solvent | DCE | 50 mL | ClCCCl | C2H4Cl2
product | (3S,4R)-methyl 4-(3,4-dichlorophenyl)pyrrolidine-3-carboxylate | 3.1 g, 98% | ClC=1C=C(C=CC1Cl)[C@H]1[C@@H](CNC1)C(=O)OC | C12H13Cl2NO2
